US08030336B2
Tert-Butyl 5-bromonicotinate
To a mixture of 5-bromonicotinic acid (0.30 g, 1.49 mmol) and di-tert-butyldicarbonate (0.45 g, 2.06 mmol) in THF (15 mL) was added triethylamine (0.25 mL, 1.79 mmol) followed by 4-(pyrrolidino)pyridine (30 mg, 0.20 mmol). The resultant solution was stirred at ambient temperature for 48 hr. The volatiles were then removed under vacuum and the residue was purified by column chromatography on silica (gradient, CH2Cl2 to 3% MeOH/CH2Cl2) to provide the product as a white solid (0.35 g, 91%)

reactant | 5-bromonicotinic acid | 1.49 mmol, 0.30 g | BrC=1C=NC=C(C(=O)O)C1 | C6H4BrNO2
reactant | di-tert-butyldicarbonate | 2.06 mmol, 0.45 g | C(C)(C)(C)OC(=O)OC(=O)OC(C)(C)C | C10H18O5
reactant | triethylamine | 1.79 mmol, 0.25 mL | C(C)N(CC)CC | C6H15N
reactant | 4-(pyrrolidino)pyridine | 0.20 mmol, 30 mg | N1(CCCC1)C1=CC=NC=C1 | C9H12N2
solvent | THF | 15 mL | C1CCOC1 | C4H8O
product | Tert-Butyl 5-bromonicotinate | 0.35 g, 91% | BrC=1C=NC=C(C(=O)OC(C)(C)C)C1 | C10H12BrNO2
